US05516665
In one process, GlcN-6-P was acetylated in THF/water using N-acetylsuccinimide (NAS) to form GlcNAc-6-P. Acetic anhydride can also be used. That N-acetyl compound was treated with an enzyme preparation from Candida utilis containing N-acetylglucosamine phosphomutase (EC 2.7.5.2) and UDP-GlcNAc pyrophosphorylase (EC 2.7.7.23) to first form GlcNAc-1-P and then UDP-GlcNAc in the presence of UTP and inorganic pyrophosphatase (EC 3.6.1.1) to destroy the inorganic pyrophosphate formed.

reactant | GlcN-6-P | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O)N)O)O)OP(=O)(O)O | C6H14NO8P
reactant | N-acetylsuccinimide | C(C)(=O)N1C(CCC1=O)=O | C6H7NO3
solvent | THF water | C1CCOC1.O
product | GlcNAc-6-P | CC(=O)NC1C(C(C(OC1O)COP(=O)(O)O)O)O | C8H16NO9P
